US08242104B2
5-(9-Bromo-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepin-2-yl)-1-(2-chlorophenyl)-1H-1,2,4-triazol-3-ylcarbamic acid (600 mg, 1.2 mmol), 4-chlorophenylboronic acid (374 mg, 2.4 mmol), Pd(dppf)Cl2(97.9 mg, 0.12 mmol) and Cs2CO3 (469 mg, 1.44 mmol) were dissolved in dioxane/H2O (3:1, 30 ml). The resulting mixture was bubbled with N2 for 10 min and then sealed to stir at 120° C. for 4 h under N2. The reaction mixture was filtered. The filtrate was concentrated and purified by HPLC to give 1-(2-chlorophenyl)-5-(9-(4-chlorophenyl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepin-2-yl)-1H-1,2,4-triazol-3-ylcarbamic acid (270 mg, 21%). 1H NMR (DMSO, 400 MHz) δ 10.65 (s, 1H), 7.74 (s, 1H), 7.70 (d, J=8.4 Hz, 3H), 7.67-7.61 (m, 3H), 7.54 (t, 1H), 7.47 (d, J=8.4 Hz, 2H), 7.27-7.22 (m, 2H), 7.45-7.43 (m, 4H)

reactant | 5-(9-Bromo-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepin-2-yl)-1-(2-chlorophenyl)-1H-1,2,4-triazol-3-ylcarbamic acid | 1.2 mmol, 600 mg | BrC1=CC2=C(C=3N(CCO2)C=C(N3)C3=NC(=NN3C3=C(C=CC=C3)Cl)NC(O)=O)C=C1 | C20H14BrClN6O3
reactant | 4-chlorophenylboronic acid | 2.4 mmol, 374 mg | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
reactant | Cs2CO3 | 1.44 mmol, 469 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | dioxane H2O | 30 ml | O1CCOCC1.O
catalyst | Pd(dppf)Cl2 | 0.12 mmol, 97.9 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 1-(2-chlorophenyl)-5-(9-(4-chlorophenyl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepin-2-yl)-1H-1,2,4-triazol-3-ylcarbamic acid | 270 mg, 21% | ClC1=C(C=CC=C1)N1N=C(N=C1C=1N=C2N(CCOC3=C2C=CC(=C3)C3=CC=C(C=C3)Cl)C1)NC(O)=O | C26H18Cl2N6O3
